US08604019B2
N-[2-(1-Oxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)thieno[3,2-d]pyrimidin-4-yl]propane-1,3-diamine
The title compound was prepared in analogy to Example 1-1 in Scheme 1 by using 2,4-dichlorothieno[3,2-d]pyrimidine and propane-1,3-diamine, followed by reaction with 2,3,4,5-tetrahydro-1,4-benzothiazepine-1-oxide. MS obsd. (ESI+) [(M+H)+] 388, 1H NMR (400 MHz, METHANOL-d4) δ ppm 7.73-7.78 (m, 2H), 7.71 (d, J=8.3 Hz, 1H), 7.43-7.52 (m, 2H), 7.11 (d, J=5.3 Hz, 1H), 5.24 (d, J=15.2 Hz, 2H), 3.68-3.74 (m, 2H), 3.50 (br. s., 2H), 3.46 (br. s., 2H), 2.93 (t, J=7.6 Hz, 2H), 1.93-2.03 (m, 2H)

reactant | 2,4-dichlorothieno[3,2-d]pyrimidine | ClC=1N=C(C2=C(N1)C=CS2)Cl | C6H2Cl2N2S
reactant | propane-1,3-diamine | C(CCN)N | C3H10N2
reactant | 2,3,4,5-tetrahydro-1,4-benzothiazepine-1-oxide | S1(CCNCC2=C1C=CC=C2)=O | C9H11NOS
product | N-[2-(1-Oxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)thieno[3,2-d]pyrimidin-4-yl]propane-1,3-diamine | O=S1CCN(CC2=C1C=CC=C2)C=2N=C(C1=C(N2)C=CS1)NCCCN | C18H21N5OS2
